US07728155B2
Treatment of 5-allyl-6-chloroindan-4-ol (4.5 g, 0.0216 mol) with sodium hydride (60 wt. %, 1.32 g, 0.033 mol) followed by benzyl bromide (6.0 g, 0.035 mol) generally according to the procedure described for Intermediate 38 gave 5.76 g (89%) of 5-allyl-4-(benzyloxy)-6-chloroindane as a colorless oil. 1H NMR (CDCl3) 8H 7.40 (m, 5H); 7.05 (s, 1H); 6.00 (m, 1H); 5.00(m, 2H); 4.90 (s, 2H); 3.53 (dd, 2H); 2.90 (m, 4H); 2.05 (m, 2H).

reactant | 5-allyl-6-chloroindan-4-ol | 0.0216 mol, 4.5 g | C(C=C)C1=C(C=2CCCC2C=C1Cl)O | C12H13ClO
reactant | sodium hydride | 0.033 mol, 1.32 g | [H-].[Na+]
reactant | benzyl bromide | 0.035 mol, 6.0 g | C(C1=CC=CC=C1)Br | C7H7Br
product | 5-allyl-4-(benzyloxy)-6-chloroindane | 5.76 g, 89% | C(C=C)C=1C(=C2CCCC2=CC1Cl)OCC1=CC=CC=C1 | C19H19ClO
